US04795748
Pentafluorophenyl 4-chlorothiocarbonyloxybenzoate
A solution of 1.34 g of sodium hydroxide in water was added dropwise over 15 minutes with vigorous stirring to a solution of 8.45 g of pentafluorophenyl 4-hydroxybenzoate and 3.2 ml of thiophosgene in 100 ml of chloroform at -20° C. The mixture was stirred at 5° C. until the reaction was complete and the organic layer separated, dried over calcium chloride and the solvent evaporated. Chromatography of the residue on silica gel eluting with hexane/ethyl acetate mixtures afforded 5.9 g of the title compound.

reactant | sodium hydroxide | 1.34 g | [OH-].[Na+]
reactant | pentafluorophenyl 4-hydroxybenzoate | 8.45 g | OC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C13H5F5O3
reactant | thiophosgene | 3.2 ml | C(=S)(Cl)Cl | CCl2S
solvent | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Pentafluorophenyl 4-chlorothiocarbonyloxybenzoate | 5.9 g | ClC(=S)OC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C14H4ClF5O3S
